US08957062B2
Step D: 1-(azetidin-1-yl)-2-(4-hydroxy-2-methylphenyl)ethanone
1-(azetidin-1-yl)-2-[4-(benzyloxy)-2-methylphenyl]ethanone (440 mg, 1.490 mmol) was dissolved in ethanol (3 ml). and palladium hydroxide on carbon (20%) (105 mg, 0.149 mmol) added. The mixture was stirred under an atmosphere of hydrogen gas at RT overnight. The mixture was filtered and the filtrate concentrated under reduced pressure to afford the title compound. LC/MS (m/z): 206 (M+H)+.

reactant | 1-(azetidin-1-yl)-2-[4-(benzyloxy)-2-methylphenyl]ethanone | 1.490 mmol, 440 mg | N1(CCC1)C(CC1=C(C=C(C=C1)OCC1=CC=CC=C1)C)=O | C19H21NO2
solvent | ethanol | 3 ml | C(C)O | C2H6O
catalyst | palladium hydroxide on carbon | 0.149 mmol, 105 mg | [OH-].[OH-].[Pd+2]
product | 1-(azetidin-1-yl)-2-(4-hydroxy-2-methylphenyl)ethanone | N1(CCC1)C(CC1=C(C=C(C=C1)O)C)=O | C12H15NO2
